US09381260B2
8-Hydroxy-2,2-dimethyl-2H-chromene-6-carbaldehyde (9)
3,4-Dihydroxybenzaldehyde (2.3 g, 17 mmol) and 3-methylbut-2-enal (1 mL, 10 mmol) were dissolved in 3 mL of pyridine and refluxed overnight. Pyridine was evaporated under vacuum, and the crude reaction mixture was dissolved in methylene chloride. 9 (103 mg, 2.4%) was purified with silica gel chromatography with ethyl acetate/hexane (1/50). 1H NMR (CDCl3): δ 1.50 (s, 6H), 5.70 (d, J=10.1 Hz, 1H), 6.38 (d, J=10.1 Hz, 1H), 7.15 (d, J=2.14 Hz, 1H), 7.32 (d, J=1.83 Hz, 1H), 9.78 (s, 1H).

reactant | 3,4-Dihydroxybenzaldehyde | 17 mmol, 2.3 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | 3-methylbut-2-enal | 10 mmol, 1 mL | CC(=CC=O)C | C5H8O
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 8-Hydroxy-2,2-dimethyl-2H-chromene-6-carbaldehyde | OC=1C=C(C=C2C=CC(OC12)(C)C)C=O | C12H12O3
